US04606757
6-(Diphenoxymethyl)-2-pyridinenitrile (K-153705)
A mixture of 4.18 g of 6-cyano-2-(dichloromethyl)pyridine, 5.25 g of phenol, 3.33 g of potassium hydroxide and 50 ml of dimethylsulfoxide was heated to 60° C. After a reaction period of about 4 hours, the reaction was complete. The mixture was cooled and poured into 100 ml of water and then extracted with methylene chloride. The solvent extract was run through a bed of silica gel and the solvent removed. The mixture was heated to 160°C. at 0.05 milliliters of mercury. The resulting material was dissolved in a mixture of about 50 ml of methylene chloride filtered and the solvent removed by evaporation under reduced pressure. The above named product was recovered in a yield of 0.95 g and melted at 82°-85° C. The structure of the product was confirmed by its NMR and IR spectrum. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 74.44, 4.72 and 9.05 percent, respectively as compared with the theoretical contents of 75.50, 4.64 and 9.27 percent, respectively as calculated for the above named compound (Compound 28).

reactant | 6-cyano-2-(dichloromethyl)pyridine | 4.18 g | C(#N)C1=CC=CC(=N1)C(Cl)Cl | C7H4Cl2N2
reactant | phenol | 5.25 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 3.33 g | [OH-].[K+]
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 6-(Diphenoxymethyl)-2-pyridinenitrile | O(C1=CC=CC=C1)C(C1=CC=CC(=N1)C#N)OC1=CC=CC=C1 | C19H14N2O2
